US05582764
26.3 g (0.1 mol) of trans-1-bromomethyl-4-n-pentyl-4-silacyclohexane was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 44.4 g (0.1 mol) of 4-(trans-4-iodomethylcyclohexyl)-4'-trifluoromethylbiphenyl. After a conventional after treatment, purification was conducted by means of chromatography to obtain 38.5 g (yield 76.9%) of 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-4'-trifluoromethylbiphenyl was obtained.

reactant | trans-1-bromomethyl-4-n-pentyl-4-silacyclohexane | 0.1 mol, 26.3 g | BrC[C@@H]1CC[Si@H](CC1)CCCCC | C11H23BrSi
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | 4-(trans-4-iodomethylcyclohexyl)-4'-trifluoromethylbiphenyl | 0.1 mol, 44.4 g | IC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C20H20F3I
catalyst | copper (I) iodide | 0.1 g | [Cu]I
catalyst | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-4'-trifluoromethylbiphenyl | 38.5 g, yield 76.9% | C(CCCC)[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C31H43F3Si
